US06028032
A mixture of 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoic acid (27.5 g) and triphenylphosphine (34.5 g) in tetrachloromethane (173 ml) and dichloromethane was heated at reflux for 45 minutes. The reaction mixture was cooled in an ice bath and 3-chloroaniline (12.8 g) and then triethylamine (14.0 ml) were added dropwise with stirring. The mixture was stirred at ambient temperature for 2 hours and evaporated under reduced pressure. The residue was suspended in ethyl acetate and the insoluble material removed by filtration. The filtrate was evaporated under reduced pressure and the residue purified by chromatography on silica gel, eluting with ethyl acetate/hexane to give N-(3-chlorophenyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanamide (28.8 g) as a white solid, m.p. 146.5-149.9° C.

reactant | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoic acid | 27.5 g | CC1=C(C(N(CO1)C(C(=O)O)(C)C)=O)C1=CC=CC=C1 | C15H17NO4
reactant | triphenylphosphine | 34.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloroaniline | 12.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | triethylamine | 14.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrachloromethane | 173 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3-chlorophenyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanamide | 28.8 g | ClC=1C=C(C=CC1)NC(C(C)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C)=O | C21H21ClN2O3
